US07645753B2
(3-Amino-5-ethoxy-4-iodo-phenyl)-methanol
To a solution of 3-amino-5-ethoxy-4-iodo-benzoic acid methyl ester (0.18 g, 0.56 mmol, 1.0 equiv) in THF (5 mL) at 0° C. under Ar was slowly added diisobutylaluminium hydride (2.8 mL, 2.80 mmol, 5.0 equiv, 1 M solution in THF) over a time period of 30 min, the cooling bath removed on completion of addition and the reaction allowed to reach rt. After 2 h, the excess hydride was quenched by cautious addition of a sat. solution of potassium sodium tartrate (50 mL). The solidified mixture was extracted with hot THF, the combined organic phases concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with hexane/ethyl acetate (2:1) providing 0.056 g (34%) of the title compound. 1H NMR (250 MHz, CDCl3): δ 1.47 (t, J=7.0 Hz, 3H), 4.08 (q, J=7.0 Hz, 2H), 4.23 (br s, 2H), 4.58 (d, J=6.0 Hz, 2H), 6.23 (s, 1H), 6.42 (s, 1H). MS (EI): 293.0 [M]+.

reactant | 3-amino-5-ethoxy-4-iodo-benzoic acid methyl ester | 0.56 mmol, 0.18 g, 1.0 equiv | COC(C1=CC(=C(C(=C1)OCC)I)N)=O | C10H12INO3
reactant | diisobutylaluminium hydride | 2.80 mmol, 1 M, 2.8 mL, 5.0 equiv | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3-Amino-5-ethoxy-4-iodo-phenyl)-methanol | 0.056 g, 34% | NC=1C=C(C=C(C1I)OCC)CO | C9H12INO2
